US08492582B2
To a methanol (20 mL) solution of the obtained tert-butyl 2-(2-(benzyloxy)-5-(2-(4-ethylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate, 10% palladium-carbon (1.7 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours and 30 minutes. To the reaction mixture, 10% palladium-carbon (0.70 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 3 hours. The insoluble substance was removed by filtration, and then the solvent was evaporated under reduced pressure to obtain tert-butyl 2-(5-(2-(4-ethylpiperazin-1-yl)ethoxy)-2-hydroxybenzamido)-4-phenylbenzoate as a white solid.

reactant | tert-butyl 2-(2-(benzyloxy)-5-(2-(4-ethylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCN(CC1)CC | C39H45N3O5
catalyst | palladium-carbon | 1.7 g | [C].[Pd]
catalyst | palladium-carbon | 0.70 g | [C].[Pd]
solvent | methanol | 20 mL | CO | CH4O
product | tert-butyl 2-(5-(2-(4-ethylpiperazin-1-yl)ethoxy)-2-hydroxybenzamido)-4-phenylbenzoate | C(C)N1CCN(CC1)CCOC=1C=CC(=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C1)O | C32H39N3O5
